US08168784B2
2-chloro-5,5-dimethylcyclohex-1-enecarbaldehyde
A solution of N,N-dimethylformamide (1.37 eq.) in CH2Cl2 (1.5 vol.) was cooled to 0° C. and then POCl3 (1.25 eq.) was added slowly to the N,N-dimethylformamide solution at below 25° C. The resulting solution was allowed to warm up to room temperature. A solution of 4,4-dimethylcyclohexanone (1.00 eq.) in CH2Cl2 (1.4 vol.) was added slowly to the above solution at below 30° C., and then the reaction mixture was stirred at 45° C. overnight. The reaction mixture was quenched into a cooled 10% sodium acetate solution (30.0 vol.) at below 15° C., followed by a CH2Cl2 rinse (4.6 vol.). The quenched mixture was stirred while allowing it to warm up to room temperature. The organic layer was separated and then aqueous layer was extracted with CH2Cl2 (7.6 vol.×3). The organic layer and CH2Cl2 extracts were combined and concentrated to give a solution and the solution was used in the next step without purification. 1H NMR (400 MHz, CDCl3) δ 10.1 (1H, s, CHO) 1H NMR (400 MHz, CDCl3) δ 10.1 (1H, s, CHO), 2.61-2.57 (2H, m), 2.09 (2H, s), 1.54-1.51 (2H, m), 0.95 (6H, s).

reactant | N,N-dimethylformamide | 1.37 eq. | CN(C=O)C | C3H7NO
reactant | POCl3 | 1.25 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4,4-dimethylcyclohexanone | 1.00 eq. | CC1(CCC(CC1)=O)C | C8H14O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-chloro-5,5-dimethylcyclohex-1-enecarbaldehyde | ClC1=C(CC(CC1)(C)C)C=O | C9H13ClO
